US04048326
A mixture of a solution of 2-nitro-4-isopropoxycarbonylaminoaniline (17.9 g, 0.075 mole) in methanol (450 ml) and platinum oxide (1.0 g) was shaken in an atmosphere of hydrogen at atmospheric pressure and laboratory temperature for several hours, during which time 5.04 liters of hydrogen were absorbed. The mixture was filtered, and the methanol removed in vacuo and the dark solid residue recrystallised from benzene to give 1,2-diamino-4-isopropoxycarbonylaminobenzene (10.4 g), m.p. 108°-110° C.

reactant | 2-nitro-4-isopropoxycarbonylaminoaniline | 0.075 mole, 17.9 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)NC(=O)OC(C)C | C10H13N3O4
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 5.04 liters | [H][H] | H2
solvent | methanol | 450 ml | CO | CH4O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 1,2-diamino-4-isopropoxycarbonylaminobenzene | 10.4 g | NC1=C(C=C(C=C1)NC(=O)OC(C)C)N | C10H15N3O2
